US07902252B2
4.41. Synthesis of 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (128)
The title compound was synthesized from methyl 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (57 mg, 0.21 mmol) and lithium hydroxide (88 mg, 2.10 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.04-2.16 (m, 1H) 2.36-2.53 (m, 3H) 2.55-2.64 (m, 1H) 2.96-3.04 (m, 1H) 3.31-3.37 (m, 1H) 6.57 (s, 1H) 6.59-6.67 (m, 3H) 7.04-7.11 (m, 1H). LCMS m/e 258 (M+H). Purity 92% (HPLC).

reactant | methyl 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.21 mmol, 57 mg | OC=1C=C(CC2CCC3=C2NC(=C3)C(=O)OC)C=CC1 | C16H17NO3
reactant | lithium hydroxide | 2.10 mmol, 1 mL, 88 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-(3-hydroxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | OC=1C=C(CC2CCC3=C2NC(=C3)C(=O)O)C=CC1 | C15H15NO3
